US04592866
(S)-3-Hydroxy-1-methyl-2,5-pyrrolidinedione
To a stirred solution of 134 g (1 mole) of (S)-malic acid in 700 ml of toluene was added 97 ml of 40% aqueous methylamine. The temperature slowly rose to 50° C. After 0.5 hr the stirred mixture was heated to reflux and the water was collected in a Dean-Stark trap for 48 hr. A total of 93 ml of water was collected. The toluene residue was treated with 300 ml of ethanol and concentrated on the rotary evaporator. The residue was distilled. The yield of product obtained was 101 g (78%), b.p. 140°/2 mm; 145°/0.5 mm.

reactant | (S)-malic acid | 1 mole, 134 g | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | methylamine | 97 ml | CN | CH5N
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-3-Hydroxy-1-methyl-2,5-pyrrolidinedione | O[C@@H]1C(N(C(C1)=O)C)=O | C5H7NO3
